US06610692B1
Step B: 2-(N-Acetyl-N-pent-4-ynylamino)pyrimidine
A mixture of 2-(pent-4-ynylamino)pyrimidine (4.25 g, 26.4 mmol) and concentrated sulfuric acid (5 drops) in acetic anhydride (100 mL) was heated to 90° C. for 16 h. The mixture was cooled and partitioned between water and methylene chloride. The organic layer was dried (Na2SO4), filtered through a pad of silica and evaporated in vacuo to give the title compound:

reactant | 2-(pent-4-ynylamino)pyrimidine | 26.4 mmol, 4.25 g | C(CCC#C)NC1=NC=CC=N1 | C9H11N3
reactant | acetic anhydride | 100 mL | C(C)(=O)OC(C)=O | C4H6O3
catalyst | sulfuric acid | 5 drops | S(O)(O)(=O)=O | H2O4S
product | 2-(N-Acetyl-N-pent-4-ynylamino)pyrimidine | C(C)(=O)N(CCCC#C)C1=NC=CC=N1 | C11H13N3O
